US04320127
Preparation of 3-n-hexyl-1-nicotinoyl-1,2-dihydropyrido-[3,2-e]-as-triazine dihydrochloride
12 g (0.04 mole) of 3-n-hexyl-1,2-dihydropyrido-[3,2-e]-as-triazine dihydrochloride are boiled with an excess of nicotinic chloride. The reaction mixture is cooled and the separated product is filtered off.

reactant | 3-n-hexyl-1,2-dihydropyrido-[3,2-e]-as-triazine dihydrochloride | 0.04 mole, 12 g | Cl.Cl.C(CCCCC)C=1NNC2=C(N1)C=CC=N2
reactant | nicotinic chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
product | 3-n-hexyl-1-nicotinoyl-1,2-dihydropyrido-[3,2-e]-as-triazine dihydrochloride | Cl.Cl.C(CCCCC)C=1NN(C2=C(N1)C=CC=N2)C(C2=CN=CC=C2)=O | InChI=1S/C18H21N5O.2ClH/c1-2-3-4-5-10-16-21-15-9-7-12-20-17(15)23(22-16)18(24)14-8-6-11-19-13-14;;/h6-9,11-13H,2-5,10H2,1H3,(H,21,22);2*1H
